.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param W_pmos=1.26

.subckt invx1_layout VOUT VIN VSS VDD
X0 VOUT VIN VSS VSS sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X1 VOUT VIN VDD VDD sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.12 as=0.378 ps=3.12 w=1.26 l=0.15
C0 VIN VDD 0.10785f
C1 VDD VOUT 0.22327f
C2 VIN VOUT 0.03665f
C3 VOUT VSS 0.2411f
C4 VDD VSS 0.62467f
.ends

.subckt not2 VOUT VDD VSS z_float
xm01 z_float VOUT VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w={W_pmos} as={W_pmos*0.3} ad={W_pmos*0.3} ps={2*(W_pmos + 2*0.15)} pd={2*(W_pmos + 2*0.15)}
xm02 z_float VOUT VSS VSS sky130_fd_pr__nfet_01v8 l=0.15 w=0.42 as=0.1311175 ad=0.131175 ps=1.52 pd=1.52
.ends

Vdd vdd 0 DC 1.8
V1 in 0 DC 0 PULSE(0 1.8 0p 20p 20p 1n 2n)

Xnot1 out in 0 vdd invx1_layout
Xnot2 out vdd 0 float not2

.control
dc V1 0 1.8 0.001
plot V(out) title "Static Transfer Characteristic (Vout)"
meas dc VM WHEN v(in)=v(out)
meas dc VIL WHEN slope=-1 RISE=1 CROSS=1
meas dc VIH WHEN slope=-1 FALL=1 CROSS=2
let NML = VIL - 0.0
let NMH = 1.8 - VIH
print VIL VIH NML NMH VM
tran 1p 12n
plot V(in) V(out) title "Transient Response (Vin vs Vout)"
meas tran tr_sec TRIG v(out) VAL=0.36 RISE=1 TARG v(out) VAL=1.44 RISE=1
meas tran tf_sec TRIG v(out) VAL=1.44 FALL=1 TARG v(out) VAL=0.36 FALL=1
meas tran t_phl TRIG v(in) VAL=0.9 RISE=1 TARG v(out) VAL=0.9 FALL=1
meas tran t_plh TRIG v(in) VAL=0.9 FALL=1 TARG v(out) VAL=0.9 RISE=1
let tr = tr_sec * 1e12
let tf = tf_sec * 1e12
let tp = ((t_phl + t_plh) / 2) * 1e12
print tr tf tp
.endc
.end
